US07273878B2
A mixture consisting of 1.00 g (6.3 mmol) of 6-chloronicotinic acid, 5 ml of thionyl chloride and three drops of N,N-dimethylformamide was stirred under heating and refluxing for 3 hours. After the reaction, excess thionyl chloride was removed under reduced pressure, followed by the addition of 10 ml of toluene and removing the solvent again under reduced pressure to obtain crystal of 6-chloronicotinoyl chloride. In a separate vessel, 0.50 g (3.0 mmol) of 6,6-difluoro-5-methyl-5-hexene-1-thiol and 0.80 g (4.5 mmol) of 6-chloronicotinoyl chloride were dissolved in 10 ml of tetrahydrofuran, followed by the drop-wise addition of 0.50 g (4.9 mmol) of triethylamine at room temperature and stirring at the same temperature for 1 hour. The reaction liquid was then poured in water and extracted with ethyl acetate. The organic layer was washed with water and a saturated saline solution in this order, followed by drying over anhydrous magnesium sulfate and concentration under reduced pressure. The residue was purified with silica gel column chromatography (diisopropyl ether:hexane=1:6) to obtain 0.80 g (yield: 87%) of S-(6,6-difluoro-5-methyl-5-hexenyl) 6-chlorothionicotinate.

reactant | 6,6-difluoro-5-methyl-5-hexene-1-thiol | 3.0 mmol, 0.50 g | FC(=C(CCCCS)C)F | C7H12F2S
reactant | 6-chloronicotinoyl chloride | 4.5 mmol, 0.80 g | ClC1=NC=C(C(=O)Cl)C=C1 | C6H3Cl2NO
reactant | triethylamine | 4.9 mmol, 0.50 g | C(C)N(CC)CC | C6H15N
solvent | tetrahydrofuran | 10 ml | O1CCCC1 | C4H8O
solvent | water | O | H2O
product | S-(6,6-difluoro-5-methyl-5-hexenyl) 6-chlorothionicotinate | 0.80 g, yield: 87% | ClC1=NC=C(C(=O)SCCCCC(=C(F)F)C)C=C1 | C13H14ClF2NOS
